US07435837B2
To a solution of (±)-(6-hydroxy-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (8.67 g, 27.2 mmol) in anhydrous dichloromethane (300 mL) at 0° C. was added diisopropylethylamine (4.22 g, 32.6 mmol) followed by trifluoromethanesulfonic anhydride (8.45 g, 29.9 mmol) and the reaction mixture was allowed to stir at 0° C. for 1 h. The reaction mixture was quenched with water (300 mL) and diluted with dichloromethane (400 mL), The combined organic layers were washed with saturated aqueous sodium chloride, dried (magnesium sulfate), and the solvent removed in vacuo to provide a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:4→2:3) afforded 10.3 g (84%) of (±)-(6-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a tan solid. To a solution of (±)-(6-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (2.0 g, 4.43 mmol) in dioxane (50 mL) was added phenylboronic acid (1.08 g, 8.86 mmol), tetrakis(triphenylphosphine)palladium(0) (1.0 g, 0.884 mmol), and lithium chloride (0.787 g, 17.43 mmol) and the reaction mixture was heated at 90° C. for 12 h. The reaction mixture was cooled to room temperature and diluted with water (500 mL) and ethyl acetate (500 mL). The organic layer was separated and washed with water (200 mL), saturated aqueous sodium chloride (200 mL), dried (magnesium sulfate) and the solvent removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9) provided 0.170 g (10%) of (±)-(6-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as an oil. 1H NMR (DMSO d6) δH 7.75 (d, 2H); 7.56 (d, 2H); 7.42 (m, 4H); 7.28 (t, 1H); 7.21 (d, 1H); 7.08 (d, 1H); 6.92 (s, 1H); 4.98 (m, 1H); 4.24 (dd, 1H); 4.18 (q, 1H); 3.29 (dd, 1H); 2.88 (dd, 1H); 2.46 (s, 3H).

reactant | (±)-(6-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 4.43 mmol, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C(F)(F)F | C17H15F3O7S2
reactant | phenylboronic acid | 8.86 mmol, 1.08 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | lithium chloride | 17.43 mmol, 0.787 g | [Cl-].[Li+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 500 mL | O | H2O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.884 mmol, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-(6-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 0.170 g, 10% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC(=C2)C2=CC=CC=C2 | C22H20O4S
